data/oMe_Silver.jsonl
{"reaction_id": "NR-316_1-N(C)C_2-Cl_3-OC_4-Br_5-F","level": "medium","name": "Vilsmeier-Haack Formylation","reactants_smiles": ["c1c(N(C)C)c(Cl)c(OC)c(Br)c1F","CN(C)C=O","O=P(Cl)(Cl)Cl"],"products_smiles": ["c1(C=O)c(N(C)C)c(Cl)c(OC)c(Br)c1F"],"conditions": "1. POCl3, DMF; 2. H2O","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[N+](C)=COP([O-])(Cl)(Cl)Cl","step_weight": 0,"rationale": "DMF oxygen attacks electrophilic phosphorus in POCl3 due to strong P=O polarization, forming a stabilized adduct."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CN(C)C=[O+]P(=O)(Cl)Cl","step_weight": 0,"rationale": "Chloride elimination occurs as POCl3 is a good leaving group source, generating a more electrophilic iminium-type phosphorus species."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "ClC(N(C)C)OP(=O)(Cl)Cl","step_weight": 0,"rationale": "Chloride attacks the activated DMF–POCl3 complex at the carbon center, driven by positive charge and good leaving group potential."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "ClC(=[N+](C)C)","step_weight": 0,"rationale": "Elimination of the phosphoryl group yields the iminium chloride, stabilized by resonance between nitrogen and carbon."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1(F)c(Br)c(OC)c(Cl)[C+](N(C)C)C1C(Cl)N(C)C","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, favored by strong electrophilicity and resonance stabilization of the arenium ion."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CN(C)C(Cl)c1c(N(C)C)c(Cl)c(OC)c(Br)c1F","step_weight": 0,"rationale": "Proton elimination restores aromaticity, a thermodynamically favorable step in electrophilic aromatic substitution."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+](C)C)c1c(N(C)C)c(Cl)c(OC)c(Br)c1F","step_weight": 0,"rationale": "Dimethylamino group leaves as a stable amine, driven by formation of a conjugated iminium intermediate."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=Cc1c(N(C)C)c(Cl)c(OC)c(Br)c1F","step_weight": 0,"rationale": "Water attacks the iminium carbon during aqueous workup, hydrolyzing it to the aldehyde under acidic conditions."}],"description": "POCl3 activates DMF to form an electrophilic iminium species, which undergoes electrophilic aromatic substitution with the aromatic ring. Subsequent elimination and hydrolysis steps yield the formylated aromatic product under Vilsmeier–Haack conditions."}
